US04933355
2-Allylaminothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 11 g of 2-allylaminothiazol-4-ylmethanol, 31 g of sulfur trioxide pyridine complex, 20 g of triethylamine and 100 ml of dimethyl sulfoxide, giving the title compound as pale brown needles.

reactant | 2-allylaminothiazol-4-ylmethanol | 11 g | C(C=C)NC=1SC=C(N1)CO | C7H10N2OS
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-Allylaminothiazole-4-carbaldehyde | C(C=C)NC=1SC=C(N1)C=O | C7H8N2OS
